US08563565B2
(3) Synthesis of (S)-8-fluoro-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Sodium hydroxide (powder, 82 mg) was added to a solution of 5-(2,5-difluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide (186 mg) in DMSO (1.5 mL), and the mixture was stirred at 75° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and water (5.5 mL) was then added with stirring. Acetic acid (0.12 mL) was further added, followed by stirring for 30 minutes. The generated solid was filtered, washed with water (5 mL) and then dried under reduced pressure at 60° C. for one hour to give the title compound (155 mg).

reactant | Sodium hydroxide | 82 mg | [OH-].[Na+]
reactant | 5-(2,5-difluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide | 186 mg | FC1=C(C=C(C(=C1)C1=C(C(=NC=C1C)OC)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)N | C22H22F2N4O3
reactant | water | 5.5 mL | O | H2O
reactant | Acetic acid | 0.12 mL | C(C)(=O)O | C2H4O2
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | (S)-8-fluoro-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 155 mg | FC1=CC=2C3=C(C(NC2C=C1C1=C(C(=NC=C1C)OC)C)=O)C=NN3[C@@H]3COCC3 | C22H21FN4O3
